US04672066
To a cold (0° C.) solution of 1.22 g of 4-[2-(4-Acetyl-3-hydroxy-2-propylphenoxy)ethoxy]benzoic acid in 15 mL of anhydrous DMF was added to 0.8 mL of diphenylphosphoryl azide and 1.05 mL of anhydrous triethylamine. The resulting mixture was stirred at 0° C. for one hour and then 0.56 g of 3-pyridine butanamine was added. The mixture was stirred in ice bath for 1 hour and at room temperature for 6 hours. The solvent was removed in vacuo, the residue was dissolved in methylene chloride and washed with sodium bicarbonate solution. The extract was dried (over magnesium sulfate) and concentrated in vacuo to an oil which was purified by HPLC using 7% methanol-ethyl acetate to give an oil which was triturated with ethyl acetate-ether and filtered to yield 1.0 g, mp 93° , (60% yield) of 4-[2-(4-Acetyl-3-hydroxy-2-propylphenoxy)-ethoxy]-N-[4-(3-pyridinyl)butyl]benzamide, the title compound.

reactant | 4-[2-(4-Acetyl-3-hydroxy-2-propylphenoxy)ethoxy]benzoic acid | 1.22 g | C(C)(=O)C1=C(C(=C(OCCOC2=CC=C(C(=O)O)C=C2)C=C1)CCC)O | C20H22O6
reactant | diphenylphosphoryl azide | 0.8 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 1.05 mL | C(C)N(CC)CC | C6H15N
reactant | 3-pyridine butanamine | 0.56 g | N1=CC(=CC=C1)CCCCN | C9H14N2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 4-[2-(4-Acetyl-3-hydroxy-2-propylphenoxy)-ethoxy]-N-[4-(3-pyridinyl)butyl]benzamide | 60% yield | C(C)(=O)C1=C(C(=C(OCCOC2=CC=C(C(=O)NCCCCC=3C=NC=CC3)C=C2)C=C1)CCC)O | C29H34N2O5
